US04278748
N-(Benzotriazol-5-yl)-3-[5-(2-formylhydrazino)-2-methoxyphenyl]propionamide
Anhydrous N-hydroxybenzotriazole (1.3 g) was added to a cooled solution of 3-[5-(2-formylhydrazino)-2-methoxyphenyl]propionic acid (1.2 g) and 5-aminobenzotriazole (0.67 g, 0.005 mole) in dry dimethylformamide (10 ml). A solution of dicyclohexylcarbodi-imide (1.1 g) was added dropwise to the solution of reactants at such a rate that the temperature was kept at 0°.

reactant | N-hydroxybenzotriazole | 1.3 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-[5-(2-formylhydrazino)-2-methoxyphenyl]propionic acid | 1.2 g | C(=O)NNC=1C=CC(=C(C1)CCC(=O)O)OC | C11H14N2O4
reactant | 5-aminobenzotriazole | 0.005 mole, 0.67 g | NC1=CC2=C(NN=N2)C=C1 | C6H6N4
reactant | dicyclohexylcarbodi-imide | 1.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(Benzotriazol-5-yl)-3-[5-(2-formylhydrazino)-2-methoxyphenyl]propionamide | N1N=NC2=C1C=CC(=C2)NC(CCC2=C(C=CC(=C2)NNC=O)OC)=O | C17H18N6O3
